US07956083B2
1-(4-hydroxyphenyl)-1H-indol-4-ol (14)
4-[(phenylmethyl)oxy]-1-{4-[(phenylmethyl)oxy]phenyl}-1H-indole (D24) (143 mg, 0.352 mmoL) was dissolved in ethyl acetate (10 mL) and was hydrogenated at room temperature and atmospheric pressure in the presence of 10% palladium on charcoal (50% wet) (70 mg). After 28 hours the mixture was filtered and concentrated in vacuo. The crude product was purified by flash chromatography (Biotage SP4) eluting with a gradient of 0 to 100% ethyl acetate in hexane to give the title compound (E14), (55 mg).

reactant | 4-[(phenylmethyl)oxy]-1-{4-[(phenylmethyl)oxy]phenyl}-1H-indole | 143 mg | C1(=CC=CC=C1)COC1=C2C=CN(C2=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H23NO2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 70 mg | [Pd] | Pd
product | 1-(4-hydroxyphenyl)-1H-indol-4-ol | 55 mg | OC1=CC=C(C=C1)N1C=CC=2C(=CC=CC12)O | C14H11NO2
